US06982348B2
2) ethyl 3-[4-(benzyloxy)phenyl]-3-oxopropanoate
To a solution of 4-benzyloxyacetophenone (36 g, 159 mmol) in diethyl carbonate (200 ml) was added ethanol (0.6 ml) and sodium hydride (60% in oil, 12.7 g, 318 mmol) was added under ice-cooling. The mixture was stirred at room temperature for 2 hrs. To the reaction solution was added 6N hydrochloric acid to stop the reaction, and water (500 ml) was added. Then, the mixture was extracted with ethyl acetate (500 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from ethyl acetate-hexane to give the objective substance (49.3 g, 100%).

reactant | 4-benzyloxyacetophenone | 159 mmol, 36 g | CC(=O)C1=CC=C(C=C1)OCC2=CC=CC=C2 | C15H14O2
reactant | ethanol | 0.6 ml | C(C)O | C2H6O
reactant | sodium hydride | 318 mmol, 12.7 g | [H-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | diethyl carbonate | 200 ml | C(OCC)(OCC)=O | C5H10O3
solvent | water | 500 ml | O | H2O
product | ethyl 3-[4-(benzyloxy)phenyl]-3-oxopropanoate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC(=O)OCC)=O | C18H18O4
